US04444685
1-Methoxy-1,3-bis-(trimethylsilyloxy)buta-1-3-diene
To diisopropylamine (6.8 ml, 48 mm) in THF at 0° C. is added 30 ml of 1.6 M n-butyllithium (48 mm), then 6.5 ml tetramethylethylenediamine (TMEDA, 48 mm) cooled to -78° C. Then 7.6 g (40 mm) of methyl 3-trimethylsilyloxybut-2-enoate is added over 5 minutes at -70° C. The mixture is stirred at -75° for 10 minutes, then 8 ml (48 mm) trimethylsilylchloride is added over 5 minutes at -75° C. The solution is warmed to room temperature and concentrated in vacuo. The residue is slurried in 500 ml of n-hexane, and solids filtered off. The filtrate is concentrated in vacuo, B.P.=75°-76° C. at 0.3 mm Hg.

reactant | diisopropylamine | 6.8 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 1.6 M, 30 ml | C(CCC)[Li]
reactant | tetramethylethylenediamine | 6.5 ml | CN(CCN(C)C)C | C6H16N2
reactant | methyl 3-trimethylsilyloxybut-2-enoate | 7.6 g | C[Si](OC(=CC(=O)OC)C)(C)C | C8H16O3Si
reactant | trimethylsilylchloride | 8 ml | C[Si](C)(C)Cl | C3H9ClSi
solvent | THF | C1CCOC1 | C4H8O
product | 1-Methoxy-1,3-bis-(trimethylsilyloxy)buta-1-3-diene | COC(=CC(=C)O[Si](C)(C)C)O[Si](C)(C)C | C11H24O3Si2
